US06093732
N-((4-Chlorophenyl)methyl)-6,7-difluoro-4-hydroxy-8-(tetrahydro-2H-pyran-4-oxy)-3-quinolinecarboxamide
N-((4-Chlorophenyl)methyl)-4-hydroxy-6,7,8-trifluoro-3-quinolinecarboxamide (366 mg) from Example No. 15 and sodium hydride (60% dispersion, 40 mg) are dissolved in DMF (10 mL) and to the mixture is added tetrahydro-2H-pyran-4-ol (114 μL). Additional sodium hydride (60 mg) is added and the mixture is heated at 140° C. for 1 h. The reaction mixture is allowed to cool to rt, poured into water (30 mL), acidified with 1 N hydrochloric acid (20 mL), and extracted with ethyl acetate (3×25 mL). The organic layer is washed with brine (10 mL), dried (MgSO4), and concentrated. The resulting solid is triturated with heptane (10 mL) and filtered to afford 153 mg of the title compound as a white solid.

reactant | N-((4-Chlorophenyl)methyl)-4-hydroxy-6,7,8-trifluoro-3-quinolinecarboxamide | 366 mg | ClC1=CC=C(C=C1)CNC(=O)C=1C=NC2=C(C(=C(C=C2C1O)F)F)F | C17H10ClF3N2O2
reactant | sodium hydride | 40 mg | [H-].[Na+]
reactant | tetrahydro-2H-pyran-4-ol | 114 μL | O1CCC(CC1)O | C5H10O2
reactant | sodium hydride | 60 mg | [H-].[Na+]
reactant | hydrochloric acid | 1 N, 20 mL | Cl | ClH
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 30 mL | O | H2O
product | N-((4-Chlorophenyl)methyl)-6,7-difluoro-4-hydroxy-8-(tetrahydro-2H-pyran-4-oxy)-3-quinolinecarboxamide | 153 mg | ClC1=CC=C(C=C1)CNC(=O)C=1C=NC2=C(C(=C(C=C2C1O)F)F)OC1CCOCC1 | C22H19ClF2N2O4
